US09278915B2
Intermediate 16: Methyl 2-cyano-3-(4-hydroxyphenyl)propanoate
To a 25 mL RB flask fitted with magnetic stirrer was charged 10 mL of methanol. To the stirred solvent was added 2-cyano-3-(4-hydroxy-phenyl)-propanoic acid (0.5 g, 2.62 mmol), followed by methanesulfonic aid (0.5 mL, 7.69 mmol). After addition, the RM was refluxed at 65° C. for 1 h. After 1 h, the solvent was evaporated, water (20 mL) was added and the organic layer was extracted with ethyl acetate (15 mL×2). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as brown liquid. (0.3 g, yield: 55.8%): MS (ESI, 120 eV): m/z=204.1 (M−H)+.

reactant | 2-cyano-3-(4-hydroxy-phenyl)-propanoic acid | 2.62 mmol, 0.5 g | C(#N)C(C(=O)O)CC1=CC=C(C=C1)O | C10H9NO3
reactant | methanesulfonic | CS(=O)(=O)OCCCCOS(=O)(=O)C | C6H14O6S2
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 2-cyano-3-(4-hydroxyphenyl)propanoate | yield: 55.8% | C(#N)C(C(=O)OC)CC1=CC=C(C=C1)O | C11H11NO3
